US06107291
To a solution of 3-Benzyloxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid benzhydryloxy-amide (10 mg, 0.016 mmoL) in 0.25 mL of dichloromethane at 0° C. was added 0.25 mL of trifluoroacetic acid followed by triethyl silane (3.7 mg, 0.032 mmoL). After 50 minutes the solvent was removed under reduced pressure and the residue was azeotroped twice with toluene. The residue was then purified by column chromatography (silica: 1.5% to 3% methanol in dichloromethane) to yield 3-Benzyloxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid hydroxyamide; MS: (M-H)- =447.

reactant | 3-Benzyloxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid benzhydryloxy-amide | 10 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)ONC(=O)C1N(CCCCC1COCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C35H38N2O6S
reactant | trifluoroacetic acid | 0.25 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethyl silane | 3.7 mg | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 0.25 mL | ClCCl | CH2Cl2
product | 3-Benzyloxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid hydroxyamide | ONC(=O)C1N(CCCCC1COCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C22H28N2O6S
